US09120822B2
A solution of [trans-4-(2-oxo-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester (3.1 g, 25.1 mmol, 1.0 eq), 3-chloro-6-methoxy-[1,5]naphthyridine-4-carbaldehyde (5.6 g, 25.1 mmol, 1.0 eq) and L-proline (1.16 mg, 10.1 mmol, 0.4 eq) in dimethyl sulfoxide (100 mL) and water (15 mL) is stirred at room temperature for 16 hours. The reaction mixture is then extracted with ethyl acetate (500 mL) and water (500 mL). The organic layer is washed with brine (300 mL), dried over magnesium sulfate, filtered and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: ethyl acetate:petroleum ether, 1:1, v/v) to afford {trans-4-[2-(3-chloro-6-methoxy-[1,5]naphthyridin-4-yl)-1-formyl-2-hydroxy-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester as a light yellow solid (4.5 g, 39% yield).

reactant | [trans-4-(2-oxo-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | 25.1 mmol, 3.1 g, 1.0 eq | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CC=O)=O | C13H23NO3
reactant | 3-chloro-6-methoxy-[1,5]naphthyridine-4-carbaldehyde | 25.1 mmol, 5.6 g, 1.0 eq | ClC=1C=NC2=CC=C(N=C2C1C=O)OC | C10H7ClN2O2
reactant | L-proline | 10.1 mmol, 1.16 mg, 0.4 eq | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
solvent | water | 15 mL | O | H2O
product | {trans-4-[2-(3-chloro-6-methoxy-[1,5]naphthyridin-4-yl)-1-formyl-2-hydroxy-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester | 4.5 g, 39% yield | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(C(O)C1=C(C=NC2=CC=C(N=C12)OC)Cl)C=O)=O | C23H30ClN3O5
